US09102591B2
2,3-Dichloro-N-[2-(6-cyclopropyl-3-pyridyl)-3-[1-(difluoromethyl)cyclopropyl]propyl]benzamide
From 2,3-dichlorobenzoic acid and 2-(6-cyclopropyl-pyridin-3-yl)-3-(1-difluoromethyl-cyclopropyl)-propylamine. LCMS (MH+): m/z=439.1, tR (minutes, Method G)=2.09

reactant | 2,3-dichlorobenzoic acid | ClC1=C(C(=O)O)C=CC=C1Cl | C7H4Cl2O2
reactant | 2-(6-cyclopropyl-pyridin-3-yl)-3-(1-difluoromethyl-cyclopropyl)-propylamine | C1(CC1)C1=CC=C(C=N1)C(CN)CC1(CC1)C(F)F | C15H20F2N2
product | 2,3-Dichloro-N-[2-(6-cyclopropyl-3-pyridyl)-3-[1-(difluoromethyl)cyclopropyl]propyl]benzamide | ClC1=C(C(=O)NCC(CC2(CC2)C(F)F)C=2C=NC(=CC2)C2CC2)C=CC=C1Cl | C22H22Cl2F2N2O
